US04105680
The crude wet cake of 1-aminoanthraquinone-2-carboxylic acid was dissolved in 1500 ml. of water and 50 ml. of 10 M sodium hydroxide solution. The mixture was heated on a steam bath, and 35 g (0.2 mole) sodium hydrosulfite was added. Heating was continued until a red solid formed. The reaction mixture was then cooled to room temperature, and the red solid was collected by filtration and washed with water to give 18.5g (74% yield) of 1-aminoanthraquinone. The Thin Layer Chromatogram of the crude product showed the presence of less than 5% of impurity.

reactant | 1-aminoanthraquinone-2-carboxylic acid | NC1=C(C=CC=2C(C3=CC=CC=C3C(C12)=O)=O)C(=O)O | C15H9NO4
reactant | sodium hydroxide | 10 M | [OH-].[Na+]
reactant | sodium hydrosulfite | 0.2 mole, 35 g | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
solvent | water | O | H2O
product | 1-aminoanthraquinone | 18.5g, 74% yield | NC1=CC=CC=2C(C3=CC=CC=C3C(C12)=O)=O | C14H9NO2
